US07989461B2
7-(4-methoxybenzyl)-4-hydroxy-3-(hydroxymethyl)-1,7-naphthyridin-8(7H)-one (1.1 g, 3.5 mmol) was suspended in chloroform and treated with phosphorous oxychloride (4.9 ml, 53 mmol) and the mixture was stirred at 85° C. After 3 hours, the reaction was cooled down to room temperature and the volatiles were removed under vacuum. Residual phosphorous oxychloride was azeotroped with toluene. The residue was dissolved in chloroform and washed with cold water (2×). The organic layer then washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate and purified by column chromatography on silica gel using a gradient of 0 to 5% methanol in DCM to give 7-(4-methoxybenzyl)-4-chloro-3-(chloromethyl)-1,7-naphthyridin-8(7H)-one as a yellow film. MS (M+H)+ 350.

reactant | 7-(4-methoxybenzyl)-4-hydroxy-3-(hydroxymethyl)-1,7-naphthyridin-8(7H)-one | 3.5 mmol, 1.1 g | COC1=CC=C(CN2C=CC=3C(=C(C=NC3C2=O)CO)O)C=C1 | C17H16N2O4
reactant | phosphorous oxychloride | 53 mmol, 4.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-(4-methoxybenzyl)-4-chloro-3-(chloromethyl)-1,7-naphthyridin-8(7H)-one | COC1=CC=C(CN2C=CC=3C(=C(C=NC3C2=O)CCl)Cl)C=C1 | C17H14Cl2N2O2
